Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
EGD with biopsies

 
History of Present Illness:
PCP: Dr. ___

___ year-old man with abdominal pain that started the morning of 
admission.  The episodes last ___ minutes, 8 out of 10 in 
severity, sharp in quality, diffuse, but most severe in upper 
abdomen, and occurred 4 times prior to presentation.  He had 
black, loose stools x 4 episodes on morning of ___ with stool 
urgency, but no stool incontinence.  He had nausea without 
vomiting. He drinks ___ beers each weekend, but has been 
cutting down.  He used Ibuprofen 600mg once one week prior to 
admission for a headache.  Otherwise, the patient has loose 
stools once or twice weekly, but not black-colored.  Denies 
constipation.  No current fever or chills.  His diet typically 
consists of pizza, burritos, and beer.  Currently states that 
his pain is 7 out of 10 in the umbilical area.

Denies ever having alcohol withdrawal symptoms.

Review of Systems:
(+) Per HPI
(-) Denies night sweats, weight change, visual changes, oral 
ulcers, bleeding nose or gums, chest pain, shortness of breath, 
palpitations, orthopnea, PND, lower extremity edema, cough, 
hemoptysis, dysuria, hematuria, easy bruising, skin rash, 
myalgias, joint pain, back pain, numbness, weakness, dizziness, 
vertigo, headache, confusion, or depression.  All other review 
of systems negative.
 
Past Medical History:
Anxiety, sees a psychiatrist, Dr. ___
 
Social History:
___
Family History:
Mother with history of heart attack. Father healthy.
 
Physical Exam:
VS: 96.3, 138/88, 49, 20, 99% on room air
Pain 7 out of 10 in umbilical area
GEN: NAD
HEENT: EOMI, anicteric sclerae, MMM, no oral lesions
NECK: Supple
CHEST: CTAB
CV: RRR, normal S1 and S2, no murmurs
ABD: Soft, nontender, nondistended, bowel sounds present
SKIN: No rashes or other lesions
EXT: No lower extremity edema
NEURO: Alert, oriented x3, CN ___ intact, sensory intact 
throughout, strength ___ BUE/BLE, fluent speech, normal 
coordination
PSYCH: Calm, appropriate
 
Pertinent Results:
Admission Labs: ___ 09:40AM 
WBC-11.6* Hgb-17.1 Hct-48.4 MCV-85 RDW-13.7 Plt-331
Glu-111* BUN-20 Cr-1.0 Na-140 K-4.4 Cl-105 HCO3-22
ALT-36 AST-46* AlkPhos-74 Amylase-36 TotBili-0.5  Lipase-27

H. Pylori antibody: Negative

CXR ___: No acute process

CT Abdomen and Pelvis ___: No acute intra-abdominal pathology 
to explain the patient's pain. Specifically, normal appendix. 

EGD: Erythema in the antrum compatible with gastritis (biopsy 
normal); erythema in the duodenal bulb compatible with 
duodenitis

Discharge Labs: 
___ 07:20PM WBC-4.3# RBC-4.80 Hgb-13.9*# Hct-40.0 MCV-83 
Plt ___
___ 07:25AM Hct-39.1*

 
Brief Hospital Course:
___ year-old man with heavy alcohol use and poor diet presents 
with severe abdominal pain and black loose stools (guaiac 
positive) concerning for a GI bleed. 

# Gastrointestinal bleed: Guaiac positive in ED, with a decrease 
in his Hct from 48 to 40. Patient had no further bowel movements 
while in the hospital, and subsequent Hct was stable at 39. He 
underwent EGD which was notable for duodenitis and gastritis, 
biopsies of which were within normal limits. H.pylori antibody 
was negative. It was felt his duodenitis and gastritis were 
secondary to heavy alcohol use, and patient was advised to 
abstain from alcohol. He was started on a twice daily proton 
pump inhibitor, which he should continue until follow-up with 
___ gastroenterology. The patient continued to complain 
of pain following his EGD, and was advised to avoid NSAIDs given 
the gastritis noted on EGD. He was prescribed Tylenol and a 
limited supply of Ultram and advised to follow-up with his PCP 
if his pain persists. He tolerated a full regular diet prior to 
discharge with no change in his level of pain.

# Anxiety disorder: Mood remained stable on Sertraline and 
Lorazepam.

 
Medications on Admission:
Sertraline 150 mg PO daily
Lorazepam 1 mg PO BID prn anxiety
Zolpidem 10 mg PO QHS prn insomnia 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastritis
Duodenitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain and black 
stools concerning for bleeding from your GI tract. You underwent 
a procedure called an EGD which found inflammation in your 
stomach (gastritis) and in the first part of your small 
intestine (duodenitis). For this you are being prescribed an 
acid suppressing medication which you will need to take twice a 
day for a month. You will also need to follow-up with ___ 
in Gastroenterology.

Due to ongoing abdominal pain you are being prescribed a 
medication called Ultram. However, this medication can interact 
with medications you are already taking and is not a good 
long-term option. You are being given a one day supply of this 
medication, and will need to discuss your pain control further 
with your primary care physician ___.

It is very important that you stop drinking, as this can worsen 
the inflammation in your stomach. It is also important that you 
avoid medications such as Ibuprofen, Motrin, Advil, Naproxen, 
and Alleve, as these can also worsen the inflammation. You can 
use Tylenol as needed for pain.
 
Followup Instructions:
___